US09056844B2
Preparation 7: Di-tert-butyl (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate
Potassium carbonate (5.11 g, 36.60 mmol) is added to a solution of di-tert-butyl (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-{[(4-nitrophenyl)carbonyl]oxy}bicyclo[3.1.0]hexane-2,6-dicarboxylate (9.00 g, 12.20 mmol) and methanol (122.01 mL, 3.01 moles), and then stirred at room temperature. After 1 hour, dilute the reaction mixture with ethyl acetate, wash with water (75 mL), brine (75 mL), dry over sodium sulfate, and concentrate under reduced pressure to give a residue. The residue is purified by flash chromatography, eluting with 10-60% ethyl acetate:hexanes to give the title compound (5.3 g, 9.01 mmol, 74%). MS (m/z): 610/612 (M+1).

reactant | Potassium carbonate | 36.60 mmol, 5.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-{[(4-nitrophenyl)carbonyl]oxy}bicyclo[3.1.0]hexane-2,6-dicarboxylate | 12.20 mmol, 9.00 g | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1OCC1=CC(=C(C=C1)Cl)Cl)OC(=O)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C35H42Cl2N2O11
reactant | methanol | 3.01 moles, 122.01 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Di-tert-butyl (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate | 9.01 mmol, 5.3 g, 74% | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1OCC1=CC(=C(C=C1)Cl)Cl)O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C28H39Cl2NO8
